US07618983B2
3-Oxo-2,5,6,7-tetrahydro-3H-pyrrolo[2,1-c][1,2,4]triazole-5-carboxylic acid methyl ester (0.50 g, 2.7 mmol) was dissolved in THF (3.0 mL). LiOH (0.14 g, 3.3 mmol) was dissolved in water (3.0 mL), which was added to the THF mixture and stirred at room temperature for 30 min. The mixture was acidified with 1N HCl and extracted with DCM. The organic layers were dried over MgSO4, filtered through CELITE®, and concentrated in vacuo to give 3-Oxo-2,5,6,7-tetrahydro-3H-pyrrolo[2,1-c][1,2,4]triazole-5-carboxylic acid.

reactant | 3-Oxo-2,5,6,7-tetrahydro-3H-pyrrolo[2,1-c][1,2,4]triazole-5-carboxylic acid methyl ester | 2.7 mmol, 0.50 g | COC(=O)C1CCC2=NNC(N21)=O | C7H9N3O3
reactant | LiOH | 3.3 mmol, 0.14 g | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | water | 3.0 mL | O | H2O
product | 3-Oxo-2,5,6,7-tetrahydro-3H-pyrrolo[2,1-c][1,2,4]triazole-5-carboxylic acid | O=C1N2C(=NN1)CCC2C(=O)O | C6H7N3O3
